US07291641B2
361.3) bromo-1-(3,5-ditert-butyl-4-hydroxyphenyl)propan-1-one:
This compound is obtained simply by reacting 1-(3,5-ditert-butyl-4-hydroxyphenyl)propan-1-one (prepared from 2,6-ditertbutylphenol according to Russ. J. Org. Chem. (1997), 33, 1409-1416) with bromine in acetic acid or also according to a protocol described in one of the following references: Biorg. Med. Chem. Lett. (1996), 6(3), 253-258; J. Med. Chem. (1988), 31(10), 1910-1918; J. Am. Chem. Soc. (1999), 121, 24.

reactant | 1-(3,5-ditert-butyl-4-hydroxyphenyl)propan-1-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(CC)=O | C17H26O2
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | bromo-1-(3,5-ditert-butyl-4-hydroxyphenyl)propan-1-one | BrC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C17H25BrO2
